US07229999B2
(RS)-N-(2-Cyclobutyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-fluorophenylboronic acid and 1-amino-2-cyclobutyl-propan-2-ol hydrochloride as starting materials to yield (RS)-N-(2-cyclobutyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide. MS (ISP) 399.0 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-amino-2-cyclobutyl-propan-2-ol hydrochloride | Cl.NCC(C)(O)C1CCC1
product | (RS)-N-(2-cyclobutyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide | C1(CCC1)C(CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)OCC1CC1)=O)(C)O | C23H27FN2O3
